US06127341
N-(3-Dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride (279 mg, 1.46 mmol) was added at 0° C. to a solution of (2E)-5-(tert-butyoxycarbonylamino)-5-methylhex-2-enoic acid (355 mg, 1.46 mmol) and 1-hydroxy-7-azabenzotriazole (199 mg, 1.46 mmol). The reaction mixture was stirred for 20 min at 0° C. A solution of the crude hydrochloride salt of (2S)-6-acetylamino-2-{(2R)-2-[N-methyl-N-(2-(methylamino)-3-(2-naphthyl)propionyl)amino]-3-phenylpropionylamino}hexanoic acid N,N-dimethylamide (857 mg, 1.46 mmol) in N,N-dimethylformamide (10 ml) and dichloromethane (20 ml) and ethyidiisopropylamine (0.75 ml, 4.38 mmol) were added subsequently. The reaction mixture was stirred for 16 h, while it was warming up to room temperature. It was diluted with ethyl acetate (200 ml) and washed wtih a 10% aqueous solution of sodium hydrogen sulfate (200 ml). The aqueous phase was extracted with ethyl acetate (2×100 ml). The combined organic layers were wshed with a saturated aqueous solution of sodium hydrogen carbonate (200 ml) and dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (120 g), using dichloromethane/methanol (10:1) as eluent, to give 719 mg of {(3E)4-[N-((1R)-1-{N-[(1R)-1-((1S)-5-acetylamino-1-(dimethylcarbamoyl)pentylcarbamoyl)-2-phenylethyl]-N-methylcarbamoyl}2-(2-naphthyl)ethyl)-N-methylcarbamoyl]-1,1-dimethylbut-3-enyl}carbamic acid tert-butyl ester.

reactant | N-(3-Dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride | 1.46 mmol, 279 mg | Cl.CN(CCCN=C=NCC)C
reactant | (2E)-5-(tert-butyoxycarbonylamino)-5-methylhex-2-enoic acid | 1.46 mmol, 355 mg | C(C)(C)(C)OC(=O)NC(C/C=C/C(=O)O)(C)C | C12H21NO4
reactant | 1-hydroxy-7-azabenzotriazole | 1.46 mmol, 199 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | (2S)-6-acetylamino-2-{(2R)-2-[N-methyl-N-(2-(methylamino)-3-(2-naphthyl)propionyl)amino]-3-phenylpropionylamino}hexanoic acid N,N-dimethylamide | 1.46 mmol, 857 mg | CN(C([C@H](CCCCNC(C)=O)NC([C@@H](CC1=CC=CC=C1)N(C(C(CC1=CC2=CC=CC=C2C=C1)NC)=O)C)=O)=O)C | C34H45N5O4
reactant | ethyidiisopropylamine | 4.38 mmol, 0.75 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | {(3E)4-[N-((1R)-1-{N-[(1R)-1-((1S)-5-acetylamino-1-(dimethylcarbamoyl)pentylcarbamoyl)-2-phenylethyl]-N-methylcarbamoyl}2-(2-naphthyl)ethyl)-N-methylcarbamoyl]-1,1-dimethylbut-3-enyl}carbamic acid tert-butyl ester | 719 mg | C(C)(C)(C)OC(NC(C\C=C\C(N(C)[C@H](CC1=CC2=CC=CC=C2C=C1)C(N(C)[C@H](CC1=CC=CC=C1)C(N[C@@H](CCCCNC(C)=O)C(N(C)C)=O)=O)=O)=O)(C)C)=O | C46H64N6O7
